US06323202B1
4-Chloro-2-hydroxy-N-{3-(1-oxohexyl)phenyl}benzamide.
A solution of ethyl α-butyl-3-[(4-chloro-2-hydroxybenzoyl)amino]-β-oxobenzenepropanoate (32.0 mg, 77.0 μmol) and LiOH.H2O (11.0 mg, 0.26 mmol) in THF (3.0 mL) and water (1.5 mL) was heated to 55° for 48 h. The mixture was partitioned between water and EtOAc. The aqueous layer was acidified with aqueous 10% citric acid then extracted with EtOAc. The combined organic layers were dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by reversed phase HPLC (Whatman Partisil® ODS-3 C18 10μ, 22×500 mm; 0 to 80% MeCN+0.06% TFA/water+0.06% TFA) to give the title compound (16.0 mg, 60% yield) as a white solid: mp 134-136°; identical to the product of example 2.

reactant | ethyl α-butyl-3-[(4-chloro-2-hydroxybenzoyl)amino]-β-oxobenzenepropanoate | 77.0 μmol, 32.0 mg | C(CCC)C(C(=O)OCC)C(C1=CC(=CC=C1)NC(C1=C(C=C(C=C1)Cl)O)=O)=O | C22H24ClNO5
reactant | LiOH.H2O | 0.26 mmol, 11.0 mg | O[Li].O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | 4-Chloro-2-hydroxy-N-{3-(1-oxohexyl)phenyl}benzamide | 16.0 mg, 60% yield | ClC1=CC(=C(C(=O)NC2=CC(=CC=C2)C(CCCCC)=O)C=C1)O | C19H20ClNO3
